US07700594B2
N-(2-Trimethylsilyl-1-ethoxymethyl)-2-(tributylstannyl)-1H-pyrrolo[2,3-b]pyridine
To a solution of 1-(2-trimethylsilylethoxymethyl)-1H-pyrrolo[2,3-B]pyridine (500 mg, 0.0020129 mol) in THF (5 mL) at −110° C. was added a 2.0 M of n-BuLi in cyclohexane (1.2 mL). After 10 min at −10° C., the mixture was cooled to −20° C. and tributyltin chloride (0.65 mL, 0.0024 mol) was added. The mixture was stirred at rt for 1 h, the poured into a 5% aqueous ammonium chloride (20 mL), extracted with EtOAc (3×20 mL) and the combined extracts dried over anhydrous MgSO4 and concentrated in vacuo. The material thus obtained was chromatographed over silica gel eluting with 1:9 EtOAc:hexane to afford 0.7 g of the title compound. 1H NMR (400 MHz DMSO-d6) δ 0.01 (s, 9H), 0.10 (s, 2H), 0.92-0.94 (m, 9H), 1.14-1.27 (m, 6H), 1.37-1.46 (m, 6H), 1.60-1.72 (m, 6H), 3.48-3.52 (m, 2H), 5.71 (s, 2H), 6.74 (s, 1H), 7.16-7.19 (m, 1H), 8.02 (dd, J=1.6, 7.6 Hz, 1H) and 8.31 (dd, J=1.6, 4.4 Hz, 1H).

reactant | 1-(2-trimethylsilylethoxymethyl)-1H-pyrrolo[2,3-B]pyridine | 0.0020129 mol, 500 mg | C[Si](CCOCN1C=CC=2C1=NC=CC2)(C)C | C13H20N2OSi
reactant | n-BuLi | 2.0 M | [Li]CCCC
reactant | tributyltin chloride | 0.0024 mol, 0.65 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | cyclohexane | 1.2 mL | C1CCCCC1 | C6H12
product | N-(2-Trimethylsilyl-1-ethoxymethyl)-2-(tributylstannyl)-1H-pyrrolo[2,3-b]pyridine | 0.7 g | C[Si](CCOCN1C(=CC=2C1=NC=CC2)[Sn](CCCC)(CCCC)CCCC)(C)C | InChI=1S/C13H19N2OSi.3C4H9.Sn/c1-17(2,3)10-9-16-11-15-8-6-12-5-4-7-14-13(12)15;3*1-3-4-2;/h4-7H,9-11H2,1-3H3;3*1,3-4H2,2H3;
